US08980875B2
In a 25 ml one-necked flask, 1.4 g (17.05 mmol) of 1-methylimidazole are dissolved in 15 ml of 1,2-dichloroethane and then 4.89 g (20.46 mmol) of 3-trifluoromethylbenzyl bromide are added. After heating overnight at 80°, 50 ml of diethyl ether are added. The oil, which is then separated by decantation, is crystallized from a mixture of ethyl acetate and tetrahydrofuran (2/1 by volume). The crystals thus obtained are drained and then dried under reduced pressure. 3.06 g (56%) of 1-methyl-3-(3-trifluoromethylbenzyl)imidazolium bromide are thus obtained in the form of off-white crystals, used as they are in the next step, whose characteristic is the following:

reactant | 1-methylimidazole | 17.05 mmol, 1.4 g | CN1C=NC=C1 | C4H6N2
reactant | 3-trifluoromethylbenzyl bromide | 20.46 mmol, 4.89 g | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | 1-methyl-3-(3-trifluoromethylbenzyl)imidazolium bromide | 3.06 g, 56% | [Br-].C[N+]1=CN(C=C1)CC1=CC(=CC=C1)C(F)(F)F | InChI=1S/C12H12F3N2.BrH/c1-16-5-6-17(9-16)8-10-3-2-4-11(7-10)12(13,14)15;/h2-7,9H,8H2,1H3;1H/q+1;/p-1
